US04565767
[Synthesis of 2,6-di(4'-azidobenzal)-4-methoxycyclohexanone]
In 100 ml of ethanol were dissolved 10 g of 4-methoxycyclohexanone and 30 g of para-azidobenzaldehyde, after which a solution of 1 g of sodium hydroxide in 1 ml of water was added, and the resulting mixture was subjected to reaction in a brown flask at room temperature for 2 days. The crystals formed were separated by suction filtration, washed with ethanol, and then recrystallized from methyl Cellosolve to obtain 4.7 g of yellow crystals having a decomposition point of 145° to 150° C. (differential thermal analysis, the rate of heating: 5° C./min).

reactant | 4-methoxycyclohexanone | 10 g | COC1CCC(CC1)=O | C7H12O2
reactant | para-azidobenzaldehyde | 30 g | N(=[N+]=[N-])C1=CC=C(C=O)C=C1 | C7H5N3O
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
product | 2,6-di(4'-azidobenzal)-4-methoxycyclohexanone | 4.7 g | N(=[N+]=[N-])C1=CC=C(C=C2C(C(CC(C2)OC)=CC2=CC=C(C=C2)N=[N+]=[N-])=O)C=C1 | C21H18N6O2
